US05196046
(a) N-(1',1'-Dimethylpropynyl)-6-chloronicotinamide
A 500 ml three neck flask was equipped with a mechanical stirrer, a thermometer, addition funnel, a gas inlet and a cooling bath. 6-Chloronicotinic acid (15.0 gm, 0.095 mole) along with dry THF (150 ml) was placed in this flask and was cooled to about -20° C. under a nitrogen atmosphere. Triethylamine (9.8 gm, 0.10 mole) was added in one portion, followed by the dropwise addition of methanesulfonyl chloride (11.4 gm, 0.01 mole) while maintaining the reaction mixture at -10 to -20° C. Upon complete addition of methanesulfonyl chloride, the mixture was stirred at about -20° C. for one hour. 1,1-Dimethylpropargyl amine (11.9 gm, 0.14 mole) was added gradually while keeping the reaction mixture below -10° C., then was stirred at this temperature for 1 hour. The resulting product was processed in a manner analogous to that described in example 3a. Recrystallization of the crude product from a mixture of hexane and methylene chloride (95:5) afforded 19 gm pure product.

reactant | 6-Chloronicotinic acid | 0.095 mole, 15.0 gm | ClC1=NC=C(C(=O)O)C=C1 | C6H4ClNO2
reactant | Triethylamine | 0.10 mole, 9.8 gm | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.01 mole, 11.4 gm | CS(=O)(=O)Cl | CH3ClO2S
reactant | THF | 150 ml | C1CCOC1 | C4H8O
product | N-(1',1'-Dimethylpropynyl)-6-chloronicotinamide | 19 gm | CC(C#C)(C)NC(C1=CN=C(C=C1)Cl)=O | C11H11ClN2O
